US07652049B2
Step A: [2-chloro-6-methyl-4-(trifluoromethyl)phenyl]amine
A mixture of 2-bromo-6-chloro-4-trifluoromethyl aniline (1.00 g, 3.64 mmol), trimethylboroxine (0.66 ml, 0.59 g, 4.47 mmol), potassium carbonate (1.00 g, 7.30 mmol) and catalytic amount (10%) Pd(PPh3)4 in DMF (5 ml) was heated to 90° C. for 14 h. Water (20 ml) was added. The mixture was extracted with ethyl acetate (3×50 ml). The combined EtOAc layers were washed with brine and dried over sodium sulfate. The titled compound was obtained as a colorless oil after a flash column using EtOAc:hexane (1:9) as the elute. 1H NMR (CDCl3, 500 MHz): δ 7.43 (s, 1H), 7.24 (s, 1H), 4.38 (br s, 2H), 2.22 (s, 3H).

reactant | 2-bromo-6-chloro-4-trifluoromethyl aniline | 3.64 mmol, 1.00 g | BrC1=C(N)C(=CC(=C1)C(F)(F)F)Cl | C7H4BrClF3N
reactant | trimethylboroxine | 4.47 mmol, 0.66 ml, 0.59 g | CB1OB(OB(O1)C)C | C3H9B3O3
reactant | potassium carbonate | 7.30 mmol, 1.00 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | 20 ml | O | H2O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)4 | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | [2-chloro-6-methyl-4-(trifluoromethyl)phenyl]amine | ClC1=C(C(=CC(=C1)C(F)(F)F)C)N | C8H7ClF3N
